US06063789
b) 3-(N,N-Dimethyl)aminomethylbenzaldehyde
Diisobutylaluminium hydride (1.0M solution in toluene, 20 ml, 20 mmol) was added dropwise to a solution of 3-cyano-(N,N-dimethyl)benzylamine [Example K(a)] (3.20 g, 20 mmol) in toluene (50 ml). The mixture was stirred at room temperature for 2 h., methanol (30 ml) was cautiously added, followed by methanol/water (1:1, 40 ml) and 10% aqueous sodium hydroxide (100 ml). The mixture was extracted twice with diethyl ether, washed with saturated aqueous sodium chloride, dried over sodium sulphate and evaporated to give a yellow oil (3.0 g). M+ 163; 360 MHz 1H n.m.r (CDCl3) 10.02 (1H, s), 7.83 (1H, s), 7.79 (1H, d, J 7.6 Hz), 7.60 (1H, d, J 7.5 Hz), 7.49 (1H, t, J 7.5 Hz), 3.50 (2H, ), 2.26 (6H, s).

reactant | Diisobutylaluminium hydride | 20 mmol, 1.0M, 20 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 3-cyano-(N,N-dimethyl)benzylamine | 20 mmol, 3.20 g | C(#N)C=1C=C(CN(C)C)C=CC1 | C10H12N2
reactant | methanol | 30 ml | CO | CH4O
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol water | 40 ml | CO.O
product | 3-(N,N-Dimethyl)aminomethylbenzaldehyde | 3.0 g | CN(C)CC=1C=C(C=O)C=CC1 | C10H13NO
